US06387900B1
Tert-butyl-3-amino-5-cyclopropyl-1H-pyrazole-1-carboxylate
1.2 g (4.74 mmol) of tert-butyl-3-nitro-5-cyclopropyl-1H-pyrazole-1-carboxylate were dissolved in 20 ml of ethanol and hydrogenated in presence of 200 mg of palladium on charcoal 10% at 50 psi and room temperature to give, after filtration on celite and evaporation of the solvent, 0.96 g (95% yield) of the title compound.

reactant | tert-butyl-3-nitro-5-cyclopropyl-1H-pyrazole-1-carboxylate | 4.74 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1N=C(C=C1C1CC1)[N+](=O)[O-] | C11H15N3O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 200 mg | [Pd] | Pd
product | Tert-butyl-3-amino-5-cyclopropyl-1H-pyrazole-1-carboxylate | 0.96 g, 95% yield | C(C)(C)(C)OC(=O)N1N=C(C=C1C1CC1)N | C11H17N3O2
